US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-4-phenylbenzamido)-4-phenylbenzoate (0.11 g) in methanol (4 mL) and chloroform (4 mL), 10% palladium-carbon (40 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 5 hours and 30 minutes and then at 35° C. for 1 hour. To the reaction mixture, 10% palladium-carbon (40 mg) was added, followed by stirring under a hydrogen atmosphere at 35° C. for 2 hours. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. Diisopropyl ether and hexane were added to the obtained residue, and the solid substance was collected by filtration to obtain tert-butyl 2-(2-hydroxy-4-phenylbenzamido)-4-phenylbenzoate.

reactant | tert-butyl 2-(2-(benzyloxy)-4-phenylbenzamido)-4-phenylbenzoate | 0.11 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)C1=CC=CC=C1 | C37H33NO4
solvent | methanol | 4 mL | CO | CH4O
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | palladium-carbon | 40 mg | [C].[Pd]
catalyst | palladium-carbon | 40 mg | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-4-phenylbenzamido)-4-phenylbenzoate | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)C1=CC=CC=C1 | C30H27NO4
